US05281571
At 35° C., 13.7 g (0.04 mole) 4-chloro-3-(2,4-difluoro-5-nitrophenyl)-1-methyl-5-(trifluoromethyl)-1H-pyrazole, 5.5 g (0.04 mole) K2CO3, and 100 mL methanol were stirred for 1 hour. The reaction was cooled, diluted with 100 mL cold water, and extracted four times with ethyl acetate. The ethyl acetate extracts were washed with brine, dried over anhydrous MgSO4, and stripped in vacuo. The residue was purified chromatographically using 25% ethyl acetate in hexane as the eluent to give 13.0 g (90%) of 4-chloro-3-(2-fluoro-4-methoxy-5-nitrophenyl)-1-methyl-5-(trifluoromethyl)-1H-pyrazole as a white solid, mp 116° C.

reactant | 4-chloro-3-(2,4-difluoro-5-nitrophenyl)-1-methyl-5-(trifluoromethyl)-1H-pyrazole | 0.04 mole, 13.7 g | ClC=1C(=NN(C1C(F)(F)F)C)C1=C(C=C(C(=C1)[N+](=O)[O-])F)F | C11H5ClF5N3O2
reactant | K2CO3 | 0.04 mole, 5.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methanol | 100 mL | CO | CH4O
solvent | water | 100 mL | O | H2O
product | 4-chloro-3-(2-fluoro-4-methoxy-5-nitrophenyl)-1-methyl-5-(trifluoromethyl)-1H-pyrazole | 13.0 g, 90% | ClC=1C(=NN(C1C(F)(F)F)C)C1=C(C=C(C(=C1)[N+](=O)[O-])OC)F | C12H8ClF4N3O3
